US06762205B1
79 mg of 4-cyano-N-(4-methoxybenzyl)benzamide was dissolved in 2.5 ml of tetrahydrofuran, and 24 mg of 60% sodium hydride was added thereto, followed by heating under reflux for 5 minutes in an atmosphere of nitrogen. After cooling, 0.1 ml of methyl iodide was added thereto, followed by stirring for 15 minutes. Thereafter, the reaction was stopped by the addition of 1 ml of distilled water. After the product was extracted with ethyl acetate, the extract was successively washed with 2 N hydrochloric acid, a saturated aqueous solution of sodium hydrogen carbonate, and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After the solvent was distilled off, the resulting crude product was purified by TLC (using a 1:1 mixture of ethyl acetate and hexane as the developing solvent) to obtain 72 mg of 4-cyano-N-(4-methoxybenzyl)-N-methylbenzamide.

reactant | 4-cyano-N-(4-methoxybenzyl)benzamide | 79 mg | C(#N)C1=CC=C(C(=O)NCC2=CC=C(C=C2)OC)C=C1 | C16H14N2O2
reactant | sodium hydride | 24 mg | [H-].[Na+]
reactant | methyl iodide | 0.1 ml | CI | CH3I
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | 4-cyano-N-(4-methoxybenzyl)-N-methylbenzamide | 72 mg | C(#N)C1=CC=C(C(=O)N(C)CC2=CC=C(C=C2)OC)C=C1 | C17H16N2O2
